US06855710B2
(Z)-3-[1-(4-acetylamino-phenylamino)-1-phenyl-methylidene]-5-nitro-2-indolinone
Prepared analogously to Example 31 from (Z)-3-[1-(4-aminophenylamino)-1-phenyl-methylidene]-5-nitro-2-indolinone and acetic anhydride in glacial acetic acid.

reactant | (Z)-3-[1-(4-aminophenylamino)-1-phenyl-methylidene]-5-nitro-2-indolinone | NC1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=C(C=C12)[N+](=O)[O-])=O | C21H16N4O3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | (Z)-3-[1-(4-acetylamino-phenylamino)-1-phenyl-methylidene]-5-nitro-2-indolinone | C(C)(=O)NC1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=C(C=C12)[N+](=O)[O-])=O | C23H18N4O4
